US04348521
A mixture of 0.0894 mole (1.7 g) of optically purified (+) 1-acetyl-3-methyl-1,2,3,4-tetrahydroquinoxaline and 0.009 mole (1.9 g) diethyl ethoxymethylenemalonate was heated over one hour to 200° C. and maintained at that temperature for 1.5 hours. After cooling, 5 g of polyphosphoric acid were added and the mixture was heated at 120° C. until foaming stops. The mixture was stirred into water and the solution was made strongly basic with 25 percent sodium hydroxide. The solution was stirred and heated on a steam bath for one hour, then neutralized with acetic acid. Cooling, followed by filtration provided an olive green solid R(+) 2,3-dihydro-3-methyl-7-oxopyrido-[1,2,3-de]quinoxaline-6- carboxylic acid, m.p. >250° C. Analysis: Calculated for C13H12N2O3 : %C, 63.9; %H, 5.0; %N, 11.5; Found: %C, 63.4; %H, 5.0; %N, 11.6. Optical rotation [α]21 D = 93±3° (C=0.594, N,N-dimethylformamide:ethanol, 1/1).

reactant | (+) 1-acetyl-3-methyl-1,2,3,4-tetrahydroquinoxaline | C(C)(=O)N1CC(NC2=CC=CC=C12)C | C11H14N2O
reactant | diethyl ethoxymethylenemalonate | 0.009 mole, 1.9 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-3-methyl-7-oxopyrido-[1,2,3-de]quinoxaline-6- carboxylic acid | CC1CNC=2C=CC=C3C2N1C=C(C3=O)C(=O)O | C13H12N2O3
